US07109209B2
To a solution of N-butyl-4-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-2-pyrimidinamine (80 mg, 0.20 mmol) in tetrahydrofuran (1 mL) was added dimethylzinc (304 μL, 2.0 M in toluene, 0.60 mmol) and tetrakis(triphenyl-phosphine)palladium(0) (23 mg, 0.02 mmol). The reaction mixture was heated at 60° C. for 16 hours. The reaction mixture was cooled, then quenched with ice water. The resultant mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, then dried over magnesium sulfate. Filtration and concentration, followed by flash chromatography (3:1 hexanes:ethyl acetate) provided N-butyl-4-[2-(4-fluorophenyl)-7-methylpyrazolo[1,5-α]pyridin-3-yl]-2-pyrimidinamine (24 mg, 32%) as a yellow solid. Rf 0.33 (2:1 hexanes:ethyl acetate);

reactant | N-butyl-4-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-2-pyrimidinamine | 0.20 mmol, 80 mg | C(CCC)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2Cl)C2=CC=C(C=C2)F | C21H19ClFN5
reactant | dimethylzinc | 0.60 mmol, 2.0 M, 304 μL | C[Zn]C
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | N-butyl-4-[2-(4-fluorophenyl)-7-methylpyrazolo[1,5-α]pyridin-3-yl]-2-pyrimidinamine | 24 mg, 32% | C(CCC)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2C)C2=CC=C(C=C2)F | C22H22FN5
